US07687502B2
6-[(5-Amino-4H-1,2,4-triazol-3-yl)sulfanyl]-N-(1-methyl-1H-pyrazol-3-yl)pyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 63 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 5-amino-3-mercapto-4H-[1,2,4]triazole, 3-amino-1-methyl-1H-pyrazole and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 5-amino-3-mercapto-4H-[1,2,4]triazole | NC=1NC(=NN1)S | C2H4N4S
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | 6-[(5-Amino-4H-1,2,4-triazol-3-yl)sulfanyl]-N-(1-methyl-1H-pyrazol-3-yl)pyrido[3,2-d]pyrimidin-4-yl-amine | NC=1NC(=NN1)SC=1C=CC=2N=CN=C(C2N1)NC1=NN(C=C1)C | C13H12N10S
